US04933355
5-{1-Ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid
A mixture comprising 1 g of ethyl 2-(3-phenylureido)thiazol-4-ylglyoxylate, 0.59 g of rhodanine-3-acetic acid 0.4 g of ammonium chloride, 0.4 ml of 28% v/v aqueous ammonia and 4 ml of ethanol was stirred at an external temperature of 80° C. for one hour. The reaction mixture was then acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated off under reduced pressure. The residue thus obtained was purified by silica gel column chromatography, using as eluent a 50:1:1:1 by volume mixture of benzene, ethyl acetate, ethanol and acetic acid. The product thus obtained was recrystallized from acetic acid, giving 0.74 g of the desired compound as a yellow powder.

reactant | ethyl 2-(3-phenylureido)thiazol-4-ylglyoxylate | 1 g | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H13N3O4S
reactant | rhodanine-3-acetic acid | 0.59 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-{1-Ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid | 0.74 g | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H16N4O6S3
